US07485634B2
Preparation of 1,2,3,4,5,6-hexahydro-azepino [4,5-b]indole-5-carboxylic acid ethyl ester
In a manner similar to that described in Step B, but using 3,4-difluorobenzoyl chloride and ethyl 1,1-dimethyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carboxylate which was prepared in a similar manner as described in Step A, the following compound was prepared:

reactant | 3,4-difluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
reactant | ethyl 1,1-dimethyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carboxylate | CC1(CNCC(C=2NC=3C=CC=CC3C21)C(=O)OCC)C | C17H22N2O2
product | 1,2,3,4,5,6-hexahydro-azepino [4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1CNCCC2=C1NC=1C=CC=CC21 | C15H18N2O2
